US07759470B2
Coumarin 343-aminohexanoic Acid
Coumarin 343-aminohexanoic acid-methyl ester (0.1 mmol) was dissolved in 200 ml phosphate buffer (10 mM, pH 7.0) and 20 mg esterase was added (EC 3.1.1.1.; Sigma No: E-3019). After stirring for three days at ambient conditions (room temperature) the methyl ester has been cleaved quantitatively. The product was isolated by extraction of the aqueous phase with trichloromethane. The separated organic phase was washed with H2O and brine (H2O saturated with NaCI). After drying over magnesium sulfate and removal of the solvent in a vacuum on a rotary evaporator, the residuum is dissolved in dioxane and lyophilized.

reactant | Coumarin 343 aminohexanoic acid-methyl ester | 0.1 mmol | C1CC2=C3C(=C4C(=C2)C=C(C(=O)O4)C(=O)O)CCCN3C1.COC(C(CCCC)N)=O
reactant | trichloromethane | ClC(Cl)Cl | CHCl3
solvent | phosphate | 10 mM, 200 ml, pH 7.0 | P(=O)([O-])([O-])[O-]
product | Coumarin 343 aminohexanoic Acid | C1CC2=C3C(=C4C(=C2)C=C(C(=O)O4)C(=O)O)CCCN3C1.NC(C(=O)O)CCCC | InChI=1S/C16H15NO4.C6H13NO2/c18-15(19)12-8-10-7-9-3-1-5-17-6-2-4-11(13(9)17)14(10)21-16(12)20;1-2-3-4-5(7)6(8)9/h7-8H,1-6H2,(H,18,19);5H,2-4,7H2,1H3,(H,8,9)
